US09289430B2
methyl 3-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)benzoate
Into a 100-mL 3-necked round bottom flask, was placed a solution of 2-amino-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)benzamide (260 mg, 0.61 mmol, 1.00 equiv) in dichloromethane (20 mL), and triethylamine (123 mg, 1.22 mmol, 2.01 equiv). This was followed by dropwise addition of a solution of methyl 3-(chlorocarbonyl)benzoate (144 mg, 0.73 mmol, 1.20 equiv) in dichloromethane (10 mL) with stirring at 0° C. The resulting solution was stirred for 2 h at room temperature, with reaction progress monitored by LCMS. The resulting mixture was washed with 3×20 mL of water and 20 mL of brine, then dried over anhydrous sodium sulfate. The solids were filtered out. The resulting mixture was concentrated under vacuum to give 300 mg of crude product as a brown solid.

reactant | 2-amino-5-(piperidin-1-yl)-N-(1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)benzamide | 0.61 mmol, 260 mg, 1.00 equiv | NC1=C(C(=O)NC2=NN(C=C2)C2=CC(=CC=C2)C(F)(F)F)C=C(C=C1)N1CCCCC1 | C22H22F3N5O
reactant | triethylamine | 1.22 mmol, 123 mg, 2.01 equiv | C(C)N(CC)CC | C6H15N
reactant | methyl 3-(chlorocarbonyl)benzoate | 0.73 mmol, 144 mg, 1.20 equiv | ClC(=O)C=1C=C(C(=O)OC)C=CC1 | C9H7ClO3
solvent | dichloromethane | 20 mL | ClCCl | CH2Cl2
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
product | methyl 3-((4-(piperidin-1-yl)-2-((1-(3-(trifluoromethyl)phenyl)-1H-pyrazol-3-yl)carbamoyl)phenyl)carbamoyl)benzoate | 300 mg | N1(CCCCC1)C1=CC(=C(C=C1)NC(=O)C=1C=C(C(=O)OC)C=CC1)C(NC1=NN(C=C1)C1=CC(=CC=C1)C(F)(F)F)=O | C31H28F3N5O4
